US09163019B2
a2.1) 2-(Chloromethyl)quinoline
To a suspension of 2-(chloromethyl)quinoline hydrochloride (10 g, 46.7 mmol) in EA/water (150 ml: 75 ml) was added sodium hydrogencarbonate powder portionwise until gas evolution ceased. The organic layer was collected, washed with brine (3×50 ml), dried over sodium sulfate and concentrated. The obtained crude title compound was used in without further purification (8 g, 96% yield).

reactant | 2-(chloromethyl)quinoline hydrochloride | 46.7 mmol, 10 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | EA water | 150 ml | CC(OCC)=O.O
product | 2-(Chloromethyl)quinoline | 96% yield | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
